US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide
To a stirred solution of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) in DMF (2 mL) at room temperature under argon was added L-2,2,2-trifluoro-1-(methyl)ethylamine (ABCR F07820EFA, 42.9 mg, 0.38 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (121.7 mg, 0.38 mmol) and N,N-diisopropylethylamine (222.6 mg, 1.72 mmol). After 2.5 h the reaction mixture was concentrated, diluted with water and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. Purification by chromatography (silica, heptane:ethyl acetate=1:0 to 2:1) afforded the title compound (89 mg, 67%) as a light yellow oil. MS: m/e=384.3 [M−H]−.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C15H18N2O4
reactant | L-2,2,2-trifluoro-1-(methyl)ethylamine | 0.38 mmol, 42.9 mg | CC(C(F)(F)F)N | C3H6F3N
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.38 mmol, 121.7 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.72 mmol, 222.6 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N—((S)-2,2,2-trifluoro-1-methyl-ethyl)-nicotinamide | 89 mg, 67% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)N[C@H](C(F)(F)F)C)C=C1)C | C18H22F3N3O3
